delta_loaded_network - fault test
Vin A 0 DC 12
Ra A B 30.043982
Rb B C 29.986179
Rc C A 29.858984
Rload B 0 29.974762
.op
.control
run
print v(A) v(B) v(C)
print @ra[i] @rb[i] @rc[i] @rload[i]
.endc
.end
